US05041654
Into a 100 ml round-bottomed flask, equipped with a magnetic stirrer, condenser, and heating bath, were placed 2.4 g (0.02 mol) of dithiooxamide and a solution of pyridine (1.6 g, 0.02 mol) dissolved in methanol (40 ml). The reaction mixture was heated, with stirring, at 35° C. for 30 minutes. Ethanolamine (1.2 g, 0.02 mol) was added, and the solution was stirred for an additional 3 hours at 35° C. The crude reaction mixture was cooled to room temperature, and the acidity was adjusted to a pH of about 2 by the addition of 37% HCl (aqueous). Silica gel (10 g) was added to the solution, and the solvent was removed under reduced pressure. The dry residue of silica gel with absorbed product mixture was added to a chromatography column. The products were eluted with an ethyl acetate/hexane mixture to separate the monosubstituted product, which was eluted first, from the disubstituted dithiooxamide. The yield of N-(2-hydroxyethyl)dithiooxamide was 1.1 g (7.0×10- 3 mol, 34% yield). In addition, 0.8 g (4.0×10-3 mol, 38% yield) of N,N'-di(2-hydroxyethyl)dithiooxamide was isolated. The mole ratio of monosubstituted to disubstituted dithiooxamide was 1.8:1.

reactant | dithiooxamide | 0.02 mol, 2.4 g | NC(=S)C(=S)N | C2H4N2S2
reactant | pyridine | 0.02 mol, 1.6 g | N1=CC=CC=C1 | C5H5N
reactant | Ethanolamine | 0.02 mol, 1.2 g | C(O)CN | C2H7NO
reactant | HCl | Cl | ClH
reactant | methanol | 40 ml | CO | CH4O
product | N,N'-di(2-hydroxyethyl)dithiooxamide | 4.0×10-3 mol, 0.8 g, 38% yield | OCCNC(=S)C(=S)NCCO | C6H12N2O2S2
